US04789680
A solution of 16.75 g (100 mmol) of o-chlorobenzyl azide, 7.35 g (100 mmol) of propynecarboxylic acid and 200 ml of toluene is stirred for 24 hours at 50°. After being cooled to room temperature, the precipitated product is filtered off with suction and washed first with toluene and then with diethyl ether. In this manner there is obtained 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid having a melting point of 175° (with decomposition). After concentration of the filtrates by evaporation and washing the residue with a little toluene, 1-(o-chlorobenzyl)-1H-1,2,3-triazole-5-carboxylic acid having a melting point of 120° (with decomposition) remains.

reactant | o-chlorobenzyl azide | 100 mmol, 16.75 g | ClC1=C(CN=[N+]=[N-])C=CC=C1 | C7H6ClN3
reactant | propynecarboxylic acid | 100 mmol, 7.35 g | C(#CC)C(=O)O | C4H4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid | ClC1=C(CN2N=NC(=C2)C(=O)O)C=CC=C1 | C10H8ClN3O2
